US09029381B2
13Ai. Ethyl trans-2-(4-bromophenyl)cyclopropanecarboxylate
To a vigorously stirring mixture of (CH3)3S(I)O (7.76 g, 35.3 mmol) in DMSO (75 mL) was added NaH (0.972 g, 36.5 mmol) in small portions over 5 min. Following complete addition, the reaction was left to stir for 10 min before the rapid dropwise addition of ethyl trans-4-bromocinnamate (2.21 mL, 11.8 mmol), which is commercially available from, for example, Sigma-Aldrich. After 3 h the reaction was partitioned between EtOAc (100 mL) and H2O (200 mL). The aq. phase washed with EtOAc (2×75 mL) wherein the combined organics were washed with H2O (2×50 mL), brine (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting solid was absorbed onto Celite® and subjected to flash chromatography (SiO2-40 g; gradient elution: 5% EtOAc/Hexane isocratic for 3 min then 5-30% EtOAc/Hexane over 20 min at 40 mL/min to afford 1.48 g 13Ai as a white solid (46.7% yield). 1H NMR (500 MHz, CDCl3) δ 7.46-7.33 (m, 2H), 6.97 (d, J=8.6 Hz, 2H), 4.17 (q, J=7.2 Hz, 2H), 2.47 (ddd, J=9.2, 6.4, 4.3 Hz, 1H), 1.86 (ddd, J=8.5, 5.4, 4.2 Hz, 1H), 1.59 (dt, J=9.5, 4.8 Hz, 1H), 1.35-1.18 (m, 4H).

reactant | NaH | 36.5 mmol, 0.972 g | [H-].[Na+]
reactant | ethyl trans-4-bromocinnamate | 11.8 mmol, 2.21 mL | BrC1=CC=C(/C=C/C(=O)OCC)C=C1 | C11H11BrO2
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
product | Ethyl trans-2-(4-bromophenyl)cyclopropanecarboxylate | 46.7% yield | BrC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OCC | C12H13BrO2
